US07838524B2
Preparation of 4-(5-amino-3-tert-butyl-pyrazol-1-yl)benzoic acid
A mixture of 4,4-dimethyl-3-oxo-pentanenitrile (4.52 g, 36.15 mmol), 4-hydrazinobenzoic acid (5.00 g, 32.86 mmol), and acetic acid (2 mL) in EtOH/THF (1:1) was refluxed for 16 h. After cooling, the solvent was concentrated at reduced pressure, and the crude was re-dissolved in EtOAc. The organic layer was washed with aqueous saturated Na2CO3 solution and brine, dried over MgSO4, filtered, and concentrated to half its volume. The resulting residue was filtered, and the solids were washed with cold EtOAc and dried under high vacuum to afford the title compound as a white solid (8.4 g, 99%). 1H-NMR (DMSO-d6) δ 12.91 (s, 1H), 7.99 (d, J=6.0 Hz, 2H), 7.75 (d, J=9.0 Hz, 2H), 5.42 (s, 1H), 5.39 (s, 2H), 1.21 (s, 9H); MS LC-MS [M+H]+=260, RT=1.83 min.

reactant | 4,4-dimethyl-3-oxo-pentanenitrile | 36.15 mmol, 4.52 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | 4-hydrazinobenzoic acid | 32.86 mmol, 5.00 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | EtOH THF | CCO.C1CCOC1
product | 4-(5-amino-3-tert-butyl-pyrazol-1-yl)benzoic acid | 8.4 g, 99% | NC1=CC(=NN1C1=CC=C(C(=O)O)C=C1)C(C)(C)C | C14H17N3O2
